US04083990
The 7-iodo-3-methyl-4-oxaheptanoic acid ethyl ester was obtained in the following manner: The 3-chloropropanol was added to the crotonic acid ethyl ester in the presence of sodium hydride to obtain the 7-chloro-3-methyl-4-oxaheptanoic acid ethyl ester (boiling point1 : 74° - 82° C). Then the 7-iodo-3-methyl-4-oxaheptanoic acid ethyl ester (boiling point0.05 : 62° - 65° C) was obtained in acetone with sodium iodide according to Finkelstein.

reactant | 7-iodo-3-methyl-4-oxaheptanoic acid ethyl ester | C(C)OC(CC(OCCCI)C)=O | C9H17IO3
reactant | 3-chloropropanol | ClCCCO | C3H7ClO
reactant | crotonic acid ethyl ester | C(C)OC(\C=C\C)=O | C6H10O2
reactant | sodium hydride | [H-].[Na+]
product | 7-chloro-3-methyl-4-oxaheptanoic acid ethyl ester | C(C)OC(CC(OCCCCl)C)=O | C9H17ClO3
